US07615568B2
C. 3-(t-Butoxycarbonylamino)-2-methoxypropyl Triisopropylsilyl Ether
Using a procedure analogous to Example 57-B, 3-(t-butoxycarbonylamino)-2-hydroxypropyl triisopropylsilyl ether and methyl iodide gave the title compound (13 g, 62%).

reactant | 3-(t-butoxycarbonylamino)-2-hydroxypropyl triisopropylsilyl ether | C(C)(C)[Si](C(C)C)(C(C)C)OCC(CNC(=O)OC(C)(C)C)O | C17H37NO4Si
reactant | methyl iodide | CI | CH3I
product | 3-(t-Butoxycarbonylamino)-2-methoxypropyl Triisopropylsilyl Ether | 13 g, 62% | C(C)(C)[Si](C(C)C)(C(C)C)OCC(CNC(=O)OC(C)(C)C)OC | C18H39NO4Si
